* ====================================================================
* Accurate IHP SG13G2 TopMetal2 Octagonal Inductor Parametric Subcircuit
* Formulas matched 1:1 with IHP PDK KLayout TCL implementation
* ====================================================================
.subckt inductor port1 port2 bulk params: w=10u s=2u d=50u nr_r=3.5

* --- 1:1 Native PDK Equations Extracted from proc inductor_L ---

* 1. Fill ratio calculation: ro = (nr*(w+s)-s) / (d+nr*(w+s)-s)
.param ro = '(nr_r * (w + s) - s) / (d + nr_r * (w + s) - s)'

* 2. Permeability constant: mu = 3.1416 * 4 * 1e-7
.param mu_pdk = '3.1416 * 4 * 1e-7'

* 3. Inductance calculation (lEstim):
* tmp = mu*0.5*1.07*nr*nr*(d+nr*(w+s)-s)*(log(2.29/ro)+0.19*ro*ro)
.param L_val = 'mu_pdk * 0.5 * 1.07 * (nr_r**2) * (d + nr_r * (w + s) - s) * (ln(2.29 / ro) + 0.19 * (ro**2))'

* 4. Resistance calculation (rEstim):
* tmp = (nr*(d+w+(nr-1)*(s+w))*3.314+60e-6)/w*0.01
.param R_val = '((nr_r * (d + w + (nr_r - 1) * (s + w)) * 3.314 + 60e-6) / w) * 0.01'

* --- Real PDK Parasitic Capacitance (From Process Specs Table) ---
* Total structural length parameter used for area sizing
.param L_structural = '3.14159 * nr_r * ((d + (d + nr_r * (w + s) - s)) / 2)'
.param C_area       = 13a
.param C_val        = 'C_area * L_structural * w'

* --- RLC Topology Network ---
L1       port1  int_1  'L_val'
R_series int_1  port2  'R_val'
C_para1  port1  bulk    'C_val / 2'
C_para2  port2  bulk    'C_val / 2'

.ends inductor

